US05599522
Bis(thien-2-yl)mono(4-methoxyphenyl)methanol
p-Bromo methoxybenzene (0.96 g, 5.2 mmol) was dissolved in THF (50 mL) and n-butyl lithium (2.08 mL, 2.5M in toluene) was added at -70° C. and stirred at this temperature for 10 minutes when the thienyl ketone (1.0 g 5.2 mmol) (see JACS 74: 1733-36 (1952), JCS 1956, 698-705 and Receuil 68: 24 (1949)) dissolved in THF (5 mL) was added. The temperature was allowed to rise gradually to room temperature over night. The mixture was hydrolysed with water (50 mL). Ether (150 mL) was added and the phases were separated, the aqueous phase was extracted with more ether (100 mL) and the combined organic phase was washed with water (70 mL), dried (MgSO4) and the solvent evaporated leaving a semicrystalline black residue. The black residue was dissolved in hot heptane/EtOAc (3:1) and chromatographed on a column of alumina with heptane:EtOAc 3:1 as eluent. The product was isolated in a yield of 0.72 g (46.0%).

reactant | p-Bromo methoxybenzene | 5.2 mmol, 0.96 g | BrCOC1=CC=CC=C1 | C7H7BrO
reactant | n-butyl lithium | 2.5M, 2.08 mL | C(CCC)[Li]
reactant | thienyl ketone | 5.2 mmol, 1.0 g | S1C(=CC=C1)C(=O)C=1SC=CC1 | C9H6OS2
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
solvent | Ether | 150 mL | CCOCC | C4H10O
product | Bis(thien-2-yl)mono(4-methoxyphenyl)methanol | S1C(=CC=C1)C(O)(C1=CC=C(C=C1)OC)C=1SC=CC1 | C16H14O2S2
